US04851585
1.8 g (9 mmol) of 2,5-dimethoxy-1,3,4,6-tetramethylbenzene were dissolved in 100 ml of tetrahydrofuran, treated with 1 g (9 mmol) of potassium tert.butylate and subsequently 6 ml (9.5 mmol) of n-butyllithium (1.6 molar) were added dropwise at room temperature. Thereafter, the mixture was stirred at room temperature for 30 minutes, treated dropwise with 2.7 g (9 mmol) of (2RS,6RS,10RS)-1,2-epoxy-2,6,10,14-tetramethylpentadecane and stirred at room temperature for 16 hours. Thereupon, HYFLO and 200 ml of water were added, the mixture was then filtered and washed with water. The residue was stirred up with diethyl ether and sodium sulphate, filtered, washed with diethyl ether and concentrated. There were obtained 3.8 g of (3RS,7RS,11RS)-1-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3,7,11,15-tetramethyl-3-hexadecanol.

reactant | 2,5-dimethoxy-1,3,4,6-tetramethylbenzene | 9 mmol, 1.8 g | COC1=C(C(=C(C(=C1C)C)OC)C)C | C12H18O2
reactant | n-butyllithium | 9.5 mmol, 1.6 molar, 6 ml | C(CCC)[Li]
reactant | (2RS,6RS,10RS)-1,2-epoxy-2,6,10,14-tetramethylpentadecane | 9 mmol, 2.7 g | O1CC1(CCCC(CCCC(CCCC(C)C)C)C)C | C19H38O
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (3RS,7RS,11RS)-1-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3,7,11,15-tetramethyl-3-hexadecanol | 3.8 g | COC1=C(C(=C(C(=C1C)C)OC)C)CCC(CCCC(CCCC(CCCC(C)C)C)C)(O)C | C31H56O3
